* source I-FFD
R_R2         GND OUT  1M  
M_M1         OUT GND N00209 N00209 MbreakN           
R_R1         GND N00209  1M  
M_M2         N00209 GND GND GND MbreakN           
M_M3         OUT GND VDD VDD MbreakP           
M_M4         OUT GND VDD VDD MbreakP           
V_V1         VDD GND 5
