* source I-FFD
R_R2         0 OUT  1M  
M_M1         OUT 0 N00209 N00209 MbreakN           
R_R1         0 N00209  1M  
M_M2         N00209 0 0 0 MbreakN           
M_M3         OUT 0 VDD VDD MbreakP           
M_M4         OUT 0 VDD VDD MbreakP           
V_V1         VDD 0 5
